US04927838
As in Example 113, (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid (3.7 g) was reacted with 4-nitrophenol (1.99 g) in dichloromethane (40 mL) in the presence of 1,3-dicyclohexylcarbodiimide (2.7 g). The crude reaction product was crystallized from 2-propanol to give 4.63 g of (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester, mp 121.5°-122.5° C. Anal. Calcd for C24H23NO5 : C, 71.10; H, 5.72; N, 3.45 Found: C, 70.93; H, 5.77; N, 3.52

reactant | (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid | 3.7 g | C(CCC)C1=C(C=C(C2=CC=CC=C12)OC)/C=C/C(=O)O | C18H20O3
reactant | 4-nitrophenol | 1.99 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-3-(1-butyl-4-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester | 4.63 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC=CC=C2C(=C1)OC)CCCC)=O | C24H23NO5
